US05432279
To a 50 ml-reaction vessel were put 10 ml of MeOH, 1.9 mg of 3',4'-anhydrovinblastine (AVLB), and 1 ml of a MeOH solution of FeCl3 (1.2M), and the mixture was stirred for 30 min. under cooling with ice, while air was bubbled. Following addition of 9 mg of NaBH4, the mixture was stirred for additional 30 min. Then, 2 ml of 25% aqueous ammonia and 20 ml of water were added to make the solution basic. The products were extracted 3 times with 30 ml each of ethyl acetate. The extracts were combined and evaporated to dryness under reduced pressure at 40° or less. The resulting sample was analyzed by HPLC under the same condition of AVLB as well as less than 1% yield of vinblastine (VLB) and leurosidine (LEU) were obtained.

reactant | 3',4'-anhydrovinblastine | 1.9 mg | CCC1=C[C@@H]2C[C@@](C3=C(CCN(C2)C1)C4=CC=CC=C4N3)(C5=C(C=C6C(=C5)[C@]78CCN9[C@H]7[C@@](C=CC9)([C@H]([C@@]([C@@H]8N6C)(C(=O)OC)O)OC(=O)C)CC)OC)C(=O)OC | C46H56N4O8
reactant | MeOH | 1 ml | CO | CH4O
reactant | MeOH | 10 ml | CO | CH4O
product | vinblastine | less than 1% yield | CC[C@@]1(C[C@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C)C(=O)OC)O | C46H58N4O9
